US04070178
To as flask equipped with a stirrer, thermometer, condenser and drying tube are charged 3,4-dichlorobenzotrifluoride (43 g., 0.20 mole), potassium 4-benzyloxyphenate (47.5 g., 0.20 mole-prepared from hydroquinone monobenzylether using potassium hydroxide pellets dissolved in methanol and removal of the solvent in vacuo and subsequent precipitation in ether) and dimethyl sulfoxide (400 ml.). The reaction mixture is then warmed to 120° C and maintained at 135° C for 3 hours, cooled, poured into water (3 liters) and extracted into hexane (500 ml., then 300 ml., then 200 ml.) and the combined hexane extracts washed again with water (200 ml.), dried with anhydrous magnesium sulfate, and the solvent removed in vacuo to give 52.6 g. (70% yield) of 4-benzyloxyphenyl 2-chloro-4trifluoromethylphenyl ether, mp 63°-6° C, which is recrystallized from methanol to give white crystals, mp 69°-71° C.

reactant | 3,4-dichlorobenzotrifluoride | 0.20 mole, 43 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | potassium | [K] | K
reactant | hydroquinone monobenzylether | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 4-benzyloxyphenyl 2-chloro-4trifluoromethylphenyl ether | 70% yield | ClC1=C(C=CC(=C1)C(F)(F)F)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H14ClF3O2
